US08124701B2
1-Phenyl-4-acryloyloxymethyl-triazole
Propargyl acrylate (13.5 g, moles), phenyl azide (12.5 g, moles) and tetrakis(acetonitrile)copper (I) hexafluorophosphate (0.84 g, 2.3 mmoles) are dissolved in DMF (100 ml) and stirred at room temperature under nitrogen for 24 hours. The reaction mixture is poured in water and the product is extracted with ethyl acetate. The solvent is distilled under reduced pressure, and mixed with diethyl ether wherefrom the product crystallized as an off-white, crystalline solid (23 g; yield 89%; mp 55-56° C.). 1H NMR (CDCl3, δ ppm) 8.08 (s, 1H), 7.72 (d, 2H), 7.51 (t, 2H), 7.44 (q, qH), 6.48 (d, 1H), 6.17 (q, 1H), 5.88 (d, 1H), 5.50 (s, 2H). 13C NMR (CDCl3, δ ppm) 165.9, 143.4, 136.8, 131.5, 129.7, 128.8, 127.8, 122.1, 120.5, 57.5.

reactant | Propargyl acrylate | 13.5 g | C(C=C)(=O)OCC#C | C6H6O2
reactant | phenyl azide | 12.5 g | C1(=CC=CC=C1)N=[N+]=[N-] | C6H5N3
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-Phenyl-4-acryloyloxymethyl-triazole | yield 89% | C1(=CC=CC=C1)N1N=NC(=C1)COC(C=C)=O | C12H11N3O2
